US09062028B2
Step B. (5-Bromopyridin-2-yl)methyl 4-nitrophenyl carbonate
The title compound was prepared using a procedure analogous to 3-bromobenzyl 4-nitrophenyl carbonate except that (3-bromophenyl)methanol was replaced with (5-bromopyridin-2-yl)methanol. LCMS, [M+H]+=352.9.

reactant | 3-bromobenzyl 4-nitrophenyl carbonate | C(OCC1=CC(=CC=C1)Br)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10BrNO5
reactant | (3-bromophenyl)methanol | BrC=1C=C(C=CC1)CO | C7H7BrO
reactant | (5-bromopyridin-2-yl)methanol | BrC=1C=CC(=NC1)CO | C6H6BrNO
product | (5-Bromopyridin-2-yl)methyl 4-nitrophenyl carbonate | C(OCC1=NC=C(C=C1)Br)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H9BrN2O5
